US04846882
A solution of 4-chloro-5-ethoxymethyl-2-fluoronitrobenzene (0.9 g, 0.0039 mole) in glacial acetic acid (50 ml) was added to a 250 ml Parr bottle containing platinum IV oxide (0.3 g) under a nitrogen atmosphere. The Parr bottle was placed on a Parr hydrogenation apparatus and charged with hydrogen. The reaction mixture was allowed to shake until hydrogen absorption ceased. The catalyst was removed by vacuum filtration. The 4-chloro-5-ethoxymethyl-2-fluoroaniline produced was used in the next step in acetic acid solution without being isolated.

reactant | 4-chloro-5-ethoxymethyl-2-fluoronitrobenzene | 0.0039 mole, 0.9 g | ClC1=CC(=C(C=C1COCC)[N+](=O)[O-])F | C9H9ClFNO3
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | platinum | 0.3 g | [Pt] | Pt
product | 4-chloro-5-ethoxymethyl-2-fluoroaniline | ClC1=CC(=C(N)C=C1COCC)F | C9H11ClFNO
